US05849764
Step 4.1C [2-[2-(3,5-dimethylphenyl)-5-methanesulfonyl-1H-indol-3-yl]ethyl]-(4-pyridin-4-yl-butyl)amine
Borane-THF ((1.0M soln in tetrahydrofuran, 27 mL) was added dropwise to a solution of N-[2-[2-(3,5-dimethylphenyl)-5-methanesulfonyl-1H-indol-3-yl]ethyl]-4-pyridin-4-yl-butyramide (1.45 g, 2.96 mmol) in dry tetrahydrofuran (20 mL), and the solution was heated at reflux for 2 hours. At this time, methanol was added to quench excess borane, and the resulting solution was evaporated to dryness. The residue was dissolved in tetrahydrofuran (20 mL), and N,N-dimethylethanolamine (8.9 mL, 88.86 mmol) was added. The solution was heated at reflux for 2.5 hr and then concentrated to dryness. The crude material was purified by flash chromatography on silica gel (methylene chloride:methanol, 95:5) to give the title compound (1.0 g, 71%). m/e=476 (M+H)

reactant | Borane THF | B.C1CCOC1
reactant | N-[2-[2-(3,5-dimethylphenyl)-5-methanesulfonyl-1H-indol-3-yl]ethyl]-4-pyridin-4-yl-butyramide | 2.96 mmol, 1.45 g | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNC(CCCC1=CC=NC=C1)=O)S(=O)(=O)C | C28H31N3O3S
reactant | methanol | CO | CH4O
reactant | N,N-dimethylethanolamine | 88.86 mmol, 8.9 mL | CN(CCO)C | C4H11NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [2-[2-(3,5-dimethylphenyl)-5-methanesulfonyl-1H-indol-3-yl]ethyl]-(4-pyridin-4-yl-butyl)amine | 1.0 g, 71% | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC1=CC=NC=C1)S(=O)(=O)C | C28H33N3O2S
